US04734419
To a suspension of sodium hydride (60% in mineral oil, 367 mg) in N,N-dimethylformamide (15 ml) was added a solution of ethyl 2-(1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl)-acetate (2.0 g) in N,N-dimethylformamide (35 ml) with stirring at room temperature under nitrogem atmosphere, and the mixture was stirred at the same temperature for 15 minutes. To this mixture was added 4-chlorobenzyl chloride (1.48 g) with stirring at room temperature and the mixture was stirred at the same temperature for 1 hour. The solvent was evaporated in vacuo to give a residue, which was dissolved in ethyl acetate. The ethyl acetate solution was washed with water and dried. Evaporation of the solvent gave a residue, which was washed with n-hexane to afford ethyl 2-[3-(4-chlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate (2.55 g).

reactant | sodium hydride | 367 mg | [H-].[Na+]
reactant | ethyl 2-(1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl)-acetate | 2.0 g | O=C1N(C2=CC=CC=C2C(N1)=O)CC(=O)OCC | C12H12N2O4
reactant | 4-chlorobenzyl chloride | 1.48 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[3-(4-chlorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazolin-1-yl]acetate | 2.55 g | ClC1=CC=C(CN2C(N(C3=CC=CC=C3C2=O)CC(=O)OCC)=O)C=C1 | C19H17ClN2O4
